US09415027B2
A solution of lithium diisopropylamide (2.0 M in THF, 0.49 mL, 0.98 mmol) was added to a solution of 4-(3-chlorophenyl)-2,3-dihydro-1H-inden-1-one (235 mg, 0.97 mmol) in THF (3.3 mL) at −78° C. After 1 h at −78° C., a solution of methyl 4-(bromomethyl)benzoate (229 mg, 1.0 mmol) in THF (1.7 mL) was added via cannula. After 1 h at −78° C., the mixture was allowed to slowly warm to 0° C. After 1 h at 0° C., the reaction was quenched with saturated aqueous NH4Cl (50 mL) and extracted with EtOAc (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (40 g column, hexanes→30% EtOAc/hexanes, gradient) to afford 20 mg (5%) of methyl 4-((4-(3-chlorophenyl)-1-oxo-2,3-dihydro-1H-inden-2-yl)methyl)benzoate.

reactant | lithium diisopropylamide | 0.98 mmol, 2.0 M, 0.49 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-(3-chlorophenyl)-2,3-dihydro-1H-inden-1-one | 0.97 mmol, 235 mg | ClC=1C=C(C=CC1)C1=C2CCC(C2=CC=C1)=O | C15H11ClO
reactant | methyl 4-(bromomethyl)benzoate | 1.0 mmol, 229 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | methyl 4-((4-(3-chlorophenyl)-1-oxo-2,3-dihydro-1H-inden-2-yl)methyl)benzoate | 20 mg, 5% | ClC=1C=C(C=CC1)C1=C2CC(C(C2=CC=C1)=O)CC1=CC=C(C(=O)OC)C=C1 | C24H19ClO3
